US09227970B2
A mixture of 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-amine (225 mg, 1.03 mmol), 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (224 mg, 1.13 mmol), propylphosphonic anhydride in ethyl acetate 50% (1.63 g, 1.51 ml, 2.57 mmol) and N,N-diisopropylethylamine (398 mg, 524 μl, 3.08 mmol) in tetrahydrofuran (7 ml) was refluxed for 18 hours. The solvent was evaporated, the residue was triturated with saturated aqueous sodium hydrogen carbonate. The precipitated solid was filtered off, washed with water and dried in vacuo, affording 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester (292 mg, 71%) as light brown solid. Mp.: 233.5° C. MS: m/z=400.1 (M+H+).

reactant | 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-amine | 1.03 mmol, 225 mg | N1(CCOCC1)C1=NN2C(C=CC(=C2)N)=N1 | C10H13N5O
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 1.13 mmol, 224 mg | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | ethyl acetate | 2.57 mmol, 1.51 ml, 1.63 g | C(C)(=O)OCC | C4H8O2
reactant | N,N-diisopropylethylamine | 3.08 mmol, 524 μl, 398 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 292 mg, 71% | C(C)OC(=O)C=1C=NN(C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C | C18H21N7O4
